US05204353
A solution of 9.22 g (35 mmol) of crude 7-chloro-3-(2-fluorobenzyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine in 150 ml of toluene is added dropwise, while stirring, to a mixture of 750 ml of ethanol and 200 ml of 40% aqueous methylamine solution. The whole is left to stand for 15 hours at room temperature and then the solvent is distilled off under reduced pressure. 500 ml of water are added to the residue. The precipitated product is filtered off with suction and recrystallised from methanol. In this manner 3-(2-fluorobenzyl)-7-(N-methylamino)-3H-1,2,3-triazolo[4,5-d]pyrimidine having a melting point of 180°-182° is obtained.

reactant | 7-chloro-3-(2-fluorobenzyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine | 35 mmol, 9.22 g | ClC=1C2=C(N=CN1)N(N=N2)CC2=C(C=CC=C2)F | C11H7ClFN5
reactant | ethanol | 750 ml | C(C)O | C2H6O
reactant | methylamine | 200 ml | CN | CH5N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-fluorobenzyl)-7-(N-methylamino)-3H-1,2,3-triazolo[4,5-d]pyrimidine | FC1=C(CN2N=NC3=C2N=CN=C3NC)C=CC=C1 | C12H11FN6
